US07423030B2
13.3. N-(1-benzylpiperidin-4-yl)-5,7-dimethoxyphthalazin-1-amine
This compound is obtained according to the procedure described in 2.4 by reacting 1-chloro-5,7-dimethoxyphthalazine with 4-amino-1-benzylpiperidine.

reactant | 1-chloro-5,7-dimethoxyphthalazine | ClC1=NN=CC2=C(C=C(C=C12)OC)OC | C10H9ClN2O2
reactant | 4-amino-1-benzylpiperidine | NC1CCN(CC1)CC1=CC=CC=C1 | C12H18N2
product | N-(1-benzylpiperidin-4-yl)-5,7-dimethoxyphthalazin-1-amine | C(C1=CC=CC=C1)N1CCC(CC1)NC1=NN=CC2=C(C=C(C=C12)OC)OC | C22H26N4O2
